US09359381B2
Step 4: 10-(5-Chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione
Trifluoroacetic acid (0.399 ml, 5.18 mmol) was added to a solution of 6-(3-(1,3-dioxoisoindolin-2-yl)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (764 mg, 1.035 mmol) in toluene (15 ml) and the mixture was stirred at room temperature for 30 minutes. Bismuth triflate (340 mg, 0.518 mmol) and 5-chlorofuran-2-carbaldehyde (203 mg, 1.553 mmol) were then added and the mixture was stirred at room temperature for 16 hours. The mixture was then diluted with ethyl acetate (150 ml) and washed with water (150 ml), saturated NaHCO3(aq) (150 ml) and brine (150 ml). The organic layer was dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane, afforded the title compound as a mixture of diastereomers.

reactant | Trifluoroacetic acid | 5.18 mmol, 0.399 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6-(3-(1,3-dioxoisoindolin-2-yl)-2-(tritylthio)propyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 1.035 mmol, 764 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H35N5O4S2
reactant | Bismuth triflate | 0.518 mmol, 340 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | 5-chlorofuran-2-carbaldehyde | 1.553 mmol, 203 mg | ClC1=CC=C(O1)C=O | C5H3ClO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 10-(5-Chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1SC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CN1C(C2=CC=CC=C2C1=O)=O | C28H22ClN5O5S2
